US05166198
Diethyl azodicarboxylate (0.43 ml, 2.75 mmol) was added to a cooled mixture of 2-[bis-(t-butoxycarbonyl)-amino]-9-hydroxy-6-methoxypurine (0.71 g, 1.83 mmol), triphenylphosphine (0.72 g, 2.75 mmol) and diethyl 4-(t-butyldimethylsilyloxy)-3-hydroxybutylphosphonate (0.623 g, 1.83 mmol) in dry tetrahydrofuran (20 ml). The reaction mixture was stirred at ambient temperature for 1 hour, and then evaporated to dryness. The residue was dissolved in diethyl ether, the solution filtered, and the filtrate evaporated to give a yellow oil. This oil was partially purified by column chromatography on silica gel (eluting with dichloromethane:ethanol 97:3) to give 2-[bis-(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]-6-methoxypurine as a yellow oil (1.20 g, 98%).

reactant | Diethyl azodicarboxylate | 2.75 mmol, 0.43 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[bis-(t-butoxycarbonyl)-amino]-9-hydroxy-6-methoxypurine | 1.83 mmol, 0.71 g | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)O)OC)C(=O)OC(C)(C)C | C16H23N5O6
reactant | triphenylphosphine | 2.75 mmol, 0.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl 4-(t-butyldimethylsilyloxy)-3-hydroxybutylphosphonate | 1.83 mmol, 0.623 g | [Si](C)(C)(C(C)(C)C)OCC(CCP(OCC)(OCC)=O)O | C14H33O5PSi
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[bis-(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxymethyl)-3-(diethoxyphosphoryl)propoxy]-6-methoxypurine | 1.20 g, 98% | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC(CCP(=O)(OCC)OCC)CO[Si](C)(C)C(C)(C)C)OC)C(=O)OC(C)(C)C | C30H54N5O10PSi
